US05498777
Step 2 2-Chloro-3-nitro-6-acetoxymethylpyridine
2-Chloro-3-nitro-6-picoline-N-oxide (1.6 g, 8.5 mmol) was dissolved in acetic anhydride (5 mL) and the solution was heated in a 60° C. oil bath for 3 hours. The solvents were removed under vacuum and the dark residue was partitioned between methylene chloride (30 mL) and saturated aqueous potassium carbonate (100 mL). The aqueous layer was re-extracted with more methylene chloride (2×40 mL) and the combined methylene chloride layers were dried with magnesium sulfate, filtered and evaporated under vacuum. The crude solid was dissolved in methylene chloride (5 mL) and was loaded onto a silica gel column (E. Merck 60, 230-400 mesh, 2.5×24 cm). The column was eluted with methylene chloride collecting 8 mL fractions. Fractions 11-26 were combined and evaporated to give the title compound (0.42 g) as a white solid.

reactant | 2-Chloro-3-nitro-6-picoline-N-oxide | 8.5 mmol, 1.6 g | ClC1=[N+](C(=CC=C1[N+](=O)[O-])C)[O-] | C6H5ClN2O3
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Chloro-3-nitro-6-acetoxymethylpyridine | 0.42 g | ClC1=NC(=CC=C1[N+](=O)[O-])COC(C)=O | C8H7ClN2O4
